US05506259
By working in a way similar to that described in example 11 and by using ethyl diethoxyphosphinylacetate (59 g; 0.26 moles), sodium hydride at 60% (9.33 g; 0.233 moles) and 3-methoxybenzyl chloride (20.62 g; 0.13 moles), ethyl 2-diethoxyphosphinyl-3-(3-methoxyphenyl)-propionate (34 g; 76% yield) was obtained.

reactant | ethyl diethoxyphosphinylacetate | 0.26 moles, 59 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | [H-].[Na+]
reactant | 3-methoxybenzyl chloride | 0.13 moles, 20.62 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
product | ethyl 2-diethoxyphosphinyl-3-(3-methoxyphenyl)-propionate | 34 g, 76% yield | C(C)OP(=O)(C(C(=O)OCC)CC1=CC(=CC=C1)OC)OCC | C16H25O6P
